US08791130B2
N2-(4-Methoxy-6-(thiazol-5-yl)pyridin-3-yl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine was prepared by the procedure described in Example 7, using N2-(6-chloro-4-methoxypyridin-3-yl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine and 5-(tributylstannyl)thiazole. LCMS (10 cm_ESCI_Formic_MeCN): [MH+]=383 at 2.60 min. 1H NMR δ (ppm) (CDCl3): 9.65 (1H, s), 8.9 (1H, d, J=2.1), 8.2 (1H, d, J=1.1), 8.1 (1H, d, J=2.1), 7.75 (1H, s), 7.55 (1H, s), 5.27 (1H, s), 4.1 (3H, s), 3.2 (3H, d, J=4.7).

reactant | N2-(6-chloro-4-methoxypyridin-3-yl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | ClC1=CC(=C(C=N1)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC | C12H11ClF3N5O
reactant | 5-(tributylstannyl)thiazole | C(CCC)[Sn](C1=CN=CS1)(CCCC)CCCC
product | N2-(4-Methoxy-6-(thiazol-5-yl)pyridin-3-yl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | COC1=C(C=NC(=C1)C1=CN=CS1)NC1=NC=C(C(=N1)NC)C(F)(F)F | C15H13F3N6OS
